US07632861B2
2-(2-(1-(3,5-Bis(trifluoromethyl)benzyloxy)but-2-en-2-yl)phenyl)-1,3-dioxane.
To a suspension of ethyl triphenylphosphonium bromide (7.62 g, 20.5 mmol) in tetrahydrofuran (40 mL) at −78° C. was added n-butyllithium (1.6 M in hexane, 12.8 mL, 20.5 mmol). The resulting suspension was warmed to 0° C., stirred 30 min, and cooled to −78° C. The reaction was treated with 1-(2-(1,3-dioxan-2-yl)phenyl)-2-(3,5-bis(trifluoromethyl)benzyloxy)ethanone (2.80 g, 6.25 mmol) as a solid. The reaction was placed in a 0° C. bath and stirred for 30 min. The reaction was stirred at room temperature for 1 h, and quenched by addition of saturated ammonium chloride. The mixture was extracted with ether, which was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. The reaction was purified by flash chromatography (5-->20% EtOAc/Hex) to give 1.78 g (62%). Mass spec.: 483.13 (MNa)+.

reactant | n-butyllithium | 20.5 mmol, 1.6 M, 12.8 mL | C(CCC)[Li]
reactant | 1-(2-(1,3-dioxan-2-yl)phenyl)-2-(3,5-bis(trifluoromethyl)benzyloxy)ethanone | 6.25 mmol, 2.80 g | O1C(OCCC1)C1=C(C=CC=C1)C(COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C21H18F6O4
catalyst | ethyl triphenylphosphonium bromide | 20.5 mmol, 7.62 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-(2-(1-(3,5-Bis(trifluoromethyl)benzyloxy)but-2-en-2-yl)phenyl)-1,3-dioxane | FC(C=1C=C(COCC(=CC)C2=C(C=CC=C2)C2OCCCO2)C=C(C1)C(F)(F)F)(F)F | C23H22F6O3
